US07067517B2
4-(3-Methoxy-phenyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-(3-methoxy-phenyl)-piperazine, yield 96%. White solid, m.p. 109–111° C.; IR (KBr): ν 1721 (C═O) cm−1.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 1-(3-methoxy-phenyl)-piperazine | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
reactant | KBr | [K+].[Br-]
product | 4-(3-Methoxy-phenyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | yield 96% | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)OC)(F)F | C24H22F3N3O4
